US07314877B2
1) Production of 5-acetyl-1-benzofuran
5-Acetyl-2-methoxycarbonyl-1-benzofuran [Ramachandra P. K., Cheng T., Horton W. T., J. Org. Chem. 28 2744 (1963)] (795 mg, 3.64 mmol) was dissolved in methanol (7 mL), and 20% sodium hydroxide (7 mL) was added to the solution. The mixture was stirred for one hour at 60° C., followed by concentrating under reduced pressure. Subsequently, the reaction mixture was acidified with hydrochloric acid. The formed precipitates were collected through filtration, washed with water and dried, to thereby yield 667 mg of a carboxylic acid product. The product was heated with quinoline (3.3 g) and copper powder (133 mg) at 200° C. for six hours in a nitrogen atmosphere. After cooling, the mixture was dissolved in ethyl acetate, followed by washing sequentially with diluted hydrochloric acid, saturated aqueous sodium bicarbonate, and saturated brine. The mixture was dried over sodium sulfate anhydrate, and the solvent was removed through distillation, to thereby yield 517 mg of the title compound as a blackish brown powder (88.7%).

reactant | 5-Acetyl-2-methoxycarbonyl-1-benzofuran | 3.64 mmol, 795 mg | C(C)(=O)C=1C=CC2=C(C=C(O2)C(=O)OC)C1 | C12H10O4
reactant | sodium hydroxide | 7 mL | [OH-].[Na+]
solvent | methanol | 7 mL | CO | CH4O
product | 5-acetyl-1-benzofuran | C(C)(=O)C=1C=CC2=C(C=CO2)C1 | C10H8O2
